US05302593
a) Preparation of 4-morpholinylbutylphthalimide
4-Bromobutylphthalimide (564 mg; 2.0 mmoles) and morpholine (0.35 ml; 4.0 mmoles) were dissolved in anhydrous ethyl ether (5 ml). Reaction times and process as per Example 1.

reactant | 4-Bromobutylphthalimide | 2.0 mmoles, 564 mg | BrCCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C12H12BrNO2
reactant | morpholine | 4.0 mmoles, 0.35 ml | N1CCOCC1 | C4H9NO
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-morpholinylbutylphthalimide | N1(CCOCC1)CCCCC1=C2C(C(=O)NC2=O)=CC=C1 | C16H20N2O3
